US05302724
Equal volumes of 2,5-dibromothiophene and 27°-30% fuming sulfuric acid were added to a 100 ml round bottom flask immersed in an ice bath. The mixture was stirred for five minutes and then added to 200 ml of ice water. Sodium carbonate was added until carbon dioxide evolution ceased. The mixture was filtered and the aqueous filtrate stripped of solvent under vacuum. The resulting solid was combined with 300 ml of ethanol and the mixture heated to reflux for 2.5 hours. The hot solution was filtered. A solid formed which was washed with ethyl acetate and dried to provide sodium 2,5-dibromo-3-thiophenesulfonate. The sulfonate was added to 150 ml of water and about 40 gm of 5% sodium/mercury amalgam was added over a 0.5 hour period. The temperature was maintained at 35° C. or below The aqueous layer was decanted from the mercury and filtered. The filtrate was neutralized with 1N HCl to a pH of 7. The solution was then stripped to dryness. The resulting solid was heated to reflux in 200 ml of ethanol. The hot liquid was filtered and the filtrate condensed to provide an off-white solid of sodium 3-thiophenesulfonate. Phosphorous oxychloride (20 ml) was mixed with this thiophenesulfonate (3.17 g) and stirred at reflux for about two hours under a drying tube. The reaction mixture was cooled to room temperature and slowly added to ice. The resulting mixture was extracted with two 200-ml aliquots of a mixture of ethyl acetate and ethyl ether and the resulting organic layer extracted with water. The organic layer was isolated and the solvent removed under vacuum. The resulting residue was combined with 50 ml of concentrated ammonium hydroxide and stirred at room temperature. THF (50 ml) was added to obtain a homogenous mixture. After two hours of stirring, the mixture was partially concentrated and acidified with concentrated HCl. The resulting mixture was extracted with two 200-ml aliquots of a mixture of ethyl acetate and ethyl ether. The organic layers were combined and dried over sodium sulfate, filtered, and concentrated to provide a solid product. The solid was crystallized from ethyl acetate and dried to provide 3-thiophenesulfonamide (1.1 g).

reactant | 2,5-dibromothiophene | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
product | sodium 2,5-dibromo-3-thiophenesulfonate | BrC=1SC(=CC1S(=O)(=O)[O-])Br.[Na+] | InChI=1S/C4H2Br2O3S2.Na/c5-3-1-2(4(6)10-3)11(7,8)9;/h1H,(H,7,8,9);/q;+1/p-1
